US04051188
A mixture of 1,18 g of 1β-tert.-butoxy-8aβ-methyl-1,2,3,4,6,7,8,8a-octahydronaphthalene-6-one, 0,175 g of paraformaldehyde, 0.90 g of benzenesulfinic acid, 2,4 ml of N,N,N',N'-tetramethylethylendiamine and 1,6 ml of glacial acetic acid is stirred for 2 days at 70° under nitrogen atmosphere. The reaction mixture is taken up in chloroform, washed with a saturated solution of sodiumhydrogencarbonate and with 1 n HCl. The organic phase is dried with sodium sulfate and the solvent removed under vacuum. The yield of 2,33 g of the crude product is purified on silica gel by means of chromatography (benzine/ethyl acetate 95:5 → 50:50). After recristallisation from diisopropylether/hexane 0.452 g of rac. 1β-tert.-butoxy-8aβ-methyl-5-(phenylsulfonylmethyl)-1,2,3,4,6,7,8,8a-octahydronaphthalene-6-one is thus obtained, m.p. 96° - 98°. ε252 = 12700.

reactant | paraformaldehyde | 0,175 g | C=O | CH2O
reactant | benzenesulfinic acid | 0.90 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | N,N,N',N'-tetramethylethylendiamine | 2,4 ml | CN(CCN(C)C)C | C6H16N2
reactant | acetic acid | 1,6 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | diisopropylether hexane | 0.452 g | C(C)(C)OC(C)C.CCCCCC | InChI=1S/C6H14O.C6H14/c1-5(2)7-6(3)4;1-3-5-6-4-2/h5-6H,1-4H3;3-6H2,1-2H3
